US04056521
2,2,2-Trichloroethyl 2-bromomethyl-2-methyl-6-(2-phenylacetamido)penam-3-carboxylate (0.55 g) was dissolved in a mixture of tetrahydrofuran (5 ml) and methanol (5 ml). To this solution was added silver fluoroborate (0.24 g) under cooling and then the mixture was stirred for 1 hour. The reaction mixture was concentrated and the obtained residue was dissolved in chloroform. This solution was washed with a saturated sodium bicarbonate aqueous solution and with water and dried over magnesium sulfate. The residue obtained by distilling off the solvent was subjected to chromatography on silica gel using chloroform as developing solvent. The obtained crystals were recrystallized from carbon tetrachloride to give 2,2,2-trichloroethyl 3-methyl-3-methoxy-7-(2-phenylacetamido)-cepham-4-carboxylate (0.27 g), mp. 132° to 133° C.

reactant | 2,2,2-Trichloroethyl 2-bromomethyl-2-methyl-6-(2-phenylacetamido)penam-3-carboxylate | 0.55 g | BrCC1(S[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O)C | C18H18BrCl3N2O4S
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | methanol | 5 ml | CO | CH4O
catalyst | silver fluoroborate | 0.24 g | F[B-](F)(F)F.[Ag+]
product | 2,2,2-trichloroethyl 3-methyl-3-methoxy-7-(2-phenylacetamido)-cepham-4-carboxylate | 0.27 g | CC1(CS[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O)OC | C19H21Cl3N2O5S
